US05151441
4. 3-Formyl-2-methylbenzyl tetrahydro-2-pyranyl ether
1.2 g of Mg (magnesium turnings) in 15 ml of absolute tetrahydrofuran are initially taken under a nitrogen atmosphere. A few drops of dibromoethane are added at 65° C. A solution of 14.25 g of 3-bromo-2-methylbenzyl tetrahydro-2-pyranyl ether in 50 ml of tetrahydrofuran is added dropwise while the temperature is kept at 65° C. The stirred mixture is then refluxed for 2 hours. A solution of 5.65 g of N-formylpiperidine in 10 ml of absolute tetrahydrofuran is added dropwise to the reaction mixture, which has been cooled to 0° C. Stirring is carried out for 20 hours at room temperature and the mixture is rendered slightly acidic with about 50 ml of 5% strength hydrochloric acid and is extracted several times with ether. The combined ether extracts are washed with water, dried and evaporated down. The crude product (11 g) can be purified by column chromatography over silica gel using 97.5:2.5 toluene/acetone.

reactant | 3-bromo-2-methylbenzyl tetrahydro-2-pyranyl ether | 14.25 g | O1C(CCCC1)OCC1=C(C(=CC=C1)Br)C | C13H17BrO2
reactant | N-formylpiperidine | 5.65 g | C(=O)N1CCCCC1 | C6H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | dibromoethane | A few drops | BrC(C)Br | C2H4Br2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Formyl-2-methylbenzyl tetrahydro-2-pyranyl ether | O1C(CCCC1)OCC1=C(C(=CC=C1)C=O)C | C14H18O3
